* source OPA695
V_V2         0 -5 5
V_V3         5 0 5
C_C253         0 5  0.1uF  TC=0,0 
C_C254         0 5  6.8uF  TC=0,0 
C_C255         0 -5  0.1uF  TC=0,0 
C_C256         0 -5  6.8uF  TC=0,0 
R_R152         N1062043 N1061964  402 TC=0,0 
C_C257         N1064918 N1064922  0.1u  TC=0,0 
R_R155         N1064922 N1062043  50 TC=0,0 
C_C258         N1064918 N1064922  1n  TC=0,0 
V_V6         N1064918 N10668911  
+PULSE 0 -3m 5n 1n 1n 1n 100n
V_V7         N10668911 0 4
X_U73         0 N1062043 N1061964 5 -5 OPA695
R_R156         N1067630 N1061964  27 TC=0,0 
R_R157         N1067630 0  67k TC=0,0 
C_C259         0 0  0.1uF  TC=0,0 
